US05164402
These compounds can be prepared from 1-benzyl-5,6-dihydro-2(1H)-pyridinone by reaction with ethyl diazoacetate with molybdenum hexacarbonyl catalyst to provide 3-benzyl-2-oxo-3-azabicyclo[4.1.0]heptane-7-carboxylic acid ethyl ester, which can be reduced with lithium aluminum hydride to provide 3-benzyl-7-hydroxymethyl-3-azabicyclo[4.1.0]heptane. Utilization of the methods in Section VIII then yields the desired 7-R7 -substituent.

reactant | 1-benzyl-5,6-dihydro-2(1H)-pyridinone | C(C1=CC=CC=C1)N1C(C=CCC1)=O | C12H13NO
reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | molybdenum hexacarbonyl | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | 3-benzyl-2-oxo-3-azabicyclo[4.1.0]heptane-7-carboxylic acid ethyl ester | C(C)OC(=O)C1C2CCN(C(C12)=O)CC1=CC=CC=C1 | C16H19NO3
